US07612114B2
6-{4-Hydroxy-2-[4-(2-piperidin-1-ylethoxy)benzylamino]benzyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Obtained by reducing 4-(2-piperidin-1-ylethoxy)benzonitrile with lithium aluminum hydride, 4-(2-piperidin-1-ylethoxy)benzylamine (350 mg) and 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl trifluoromethanesulfonate (1.0 g) were used according to an analogous synthetic method to Example 116 to synthesize [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine (400 mg), which was used according to an analogous synthetic method to Example 111 to provide the title compound (260 mg).

reactant | 4-(2-piperidin-1-ylethoxy)benzonitrile | N1(CCCCC1)CCOC1=CC=C(C#N)C=C1 | C14H18N2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2-piperidin-1-ylethoxy)benzylamine | 350 mg | N1(CCCCC1)CCOC1=CC=C(CN)C=C1 | C14H22N2O
reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl trifluoromethanesulfonate | 1.0 g | FC(S(=O)(=O)OC1=C(C=CC(=C1)OC)CC1CC2=CC=C(C=C2CC1)OC)(F)F | C20H21F3O5S
reactant | [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine | 400 mg | COC=1C=CC(=C(C1)NCC1=CC=C(C=C1)OCCN1CCCCC1)CC1CC2=CC=C(C=C2CC1)OC | C33H42N2O3
product | 6-{4-Hydroxy-2-[4-(2-piperidin-1-ylethoxy)benzylamino]benzyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 260 mg | OC1=CC(=C(CC2CC=3C=CC(=CC3CC2)O)C=C1)NCC1=CC=C(C=C1)OCCN1CCCCC1 | C31H38N2O3
